US07592363B2
{3-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}(PHENYL)ACETIC ACID
3-[2-(4-Chloro-2-fluoro-benzyl)-7-trifluoromethyl-2H-indazol-3-yl]-phenol (25 mg, 1 eq) was treated with bromo-phenyl-acetic acid methyl ester (41 mg, 3 eq) and cesium carbonate (95 mg, 5 eq) in dichloromethane (2 mL) until the reaction mixture was completed as judged by TLC. Water was added followed by extraction with dichloromethane. Subsequently, the ester was hydrolyzed in aq. LiOH (1M, 15 eq)/THF 1:1. Purification by flash chromatography, eluent: 2-5% methanol in dichloromethane, afforded the title compound in 55% yleld.

reactant | 3-[2-(4-Chloro-2-fluoro-benzyl)-7-trifluoromethyl-2H-indazol-3-yl]-phenol | 25 mg, 1 eq | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=CC2)O)C(F)(F)F)C=C1)F | C21H13ClF4N2O
reactant | bromo-phenyl-acetic acid methyl ester | 41 mg, 3 eq | COC(C(C1=CC=CC=C1)Br)=O | C9H9BrO2
reactant | cesium carbonate | 95 mg, 5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | LiOH | 1M, 15 eq | [Li+].[OH-]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | {3-[2-(4-CHLORO-2-FLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENOXY}(PHENYL)ACETIC ACID | ClC1=CC(=C(CN2N=C3C(=CC=CC3=C2C=2C=C(OC(C(=O)O)C3=CC=CC=C3)C=CC2)C(F)(F)F)C=C1)F | C29H19ClF4N2O3
